US06248766B1
[(2-(2,2-Diphenylethyl)-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid
Using ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate and 3,3-diphenylthiopropionamide, the procedure of Example 52 was otherwise repeated to synthesize the title compound. Yield 19%. Amorphous solid.

reactant | ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate | C(C)OC(COC1=CC=CC=2C(C(CCC12)Br)=O)=O | C14H15BrO4
reactant | 3,3-diphenylthiopropionamide | C1(=CC=CC=C1)C(CC(=S)N)C1=CC=CC=C1 | C15H15NS
product | [(2-(2,2-Diphenylethyl)-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid | Yield 19% | C1(=CC=CC=C1)C(CC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C27H23NO3S
